US05576321
Preparation of 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6-chloroindole (4.0 g, 26 mmol) and 4-piperidone hydrochloride hydrate (8.0 g, 52 mmol). The product was isolated as a yellow solid. Yield 3.7 g (61%). mp 181°-185° C. FDMS m/e=234 (M+ of free base).

reactant | 6-chloroindole | 26 mmol, 4.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 4-piperidone hydrochloride hydrate | 52 mmol, 8.0 g | O.Cl.N1CCC(CC1)=O
product | 6-chloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | ClC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13ClN2
